US05270313
Reaction of diethyl o-methoxybenzylmalonate with formamidine hydrochloride yielded 5-(o-methoxybenzyl)-6-hydroxy-4(3H)-pyrimidione from which, by reaction with phosphorus oxychloride, there was obtained 4,6-dichloro-5-(o-methoxybenzyl)pyrimidine, melting point 95°-96° C.

reactant | diethyl o-methoxybenzylmalonate | COC1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C15H20O5
reactant | formamidine hydrochloride | Cl.C(=N)N
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,6-dichloro-5-(o-methoxybenzyl)pyrimidine | ClC1=NC=NC(=C1CC1=C(C=CC=C1)OC)Cl | C12H10Cl2N2O
